US04956375
Synthesis of 4-methyl-N-(1,1,3-trimethylindan-4-yl)thiazole-5-carboxamide
A mixture of 1.7 g (10.3 mmols) of 4-methyl-5-thiazole carboxylic acid and 10 ml of thionyl chloride was refluxed for 1 hour. The reaction solution was distilled under reduced pressure to remove excess thionyl chloride. The residue was dissolved in 10 ml of ethyl acetate. The solution was added to 10 ml of an ethyl acetate solution of 1.8 g (10.3 mmols) of 4-amino-1,1,3-trimethylindane and 4 ml of triethylamine, and the resultant solution was stirred at room temperature for 3 hours. The solution was washed sequentially with water, aqueous sodium hydrogen carbonate solution, water, and saturated brine. The solution was dried with magnesium sulfate and then concentrated under reduced pressure. The concentrated residue was separated and purified by silica gel column chromatography (eluent:ethyl acetate/n-hexane=1/2), to obtain 1.6 g of amorphous solid substance (Compound No. 6 shown in Table 4). The yield was 50.2%.

reactant | 4-methyl-5-thiazole carboxylic acid | 10.3 mmols, 1.7 g | CC=1N=CSC1C(=O)O | C5H5NO2S
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | 4-amino-1,1,3-trimethylindane | 10.3 mmols, 1.8 g | NC1=C2C(CC(C2=CC=C1)(C)C)C | C12H17N
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | 4-methyl-N-(1,1,3-trimethylindan-4-yl)thiazole-5-carboxamide | 1.6 g, yield was 50.2% | CC=1N=CSC1C(=O)NC1=C2C(CC(C2=CC=C1)(C)C)C | C17H20N2OS
